US07576204B2
(8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-7-acetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide (101 mg, 156 μmol) was dissolved in methylene chloride (1 mL). 4-dimethylaminopyridine (59.7 mg, 48.9 μmol) was added to the solution, and the solution was cooled to 0° C. Benzoyl chloride (28.0 μL, 241.0 μmol) was added to the solution, and the solution was stirred at room temperature for two hours. The reaction solution was diluted with ethyl acetate (20 mL), and the dilution was washed with purified water (4 mL) twice and brine (4 mL). The resulting organic layer was dried over sodium sulfate, and then filtered. The filtrate was concentrated. The concentrate was purified by silica gel column chromatography (MERCK Silica gel 60, 63 to 200 μm; hexane:ethyl acetate=5:1→4:1) to obtain the title compound (107 mg, 142 μmol, 91.0%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 156 μmol, 101 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)O[Si](CC)(CC)CC)(C)O | C36H62O8Si
reactant | Benzoyl chloride | 241.0 μmol, 28.0 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 48.9 μmol, 59.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 142 μmol, 107 mg, 91.0% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C2=CC=CC=C2)=O)C)O1)C)\C)O[Si](CC)(CC)CC)(C)O | C43H66O9Si
